US05977117
Allyl(4-methoxyphenyl)ether was prepared in the same manner as described in Example 17A, but using 4-methoxyphenol (10 g, 84 mmol) and allyl bromide (9.7 g, 84 mmol), in 98% yield as a yellow oil.

reactant | 4-methoxyphenol | 84 mmol, 10 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | allyl bromide | 84 mmol, 9.7 g | C(C=C)Br | C3H5Br
product | Allyl(4-methoxyphenyl)ether | 98% yield | C(C=C)OC1=CC=C(C=C1)OC | C10H12O2
